US04952584
2-Nitrophenylcyanoacetic acid, methyl ester (D14)
A solution of methyl cyanoacetate (24.75 g; 0.25M) in dimethylformamide (70 ml) was added dropwise over 40 minutes to a stirred suspension of sodium hydride (8.25 g; 0.275M) in dimethylformamide (250 ml) at 0° under nitrogen atmosphere. The solution was stirred for 0.5 h, then a solution of 2-fluoronitrobenzene (17.65 g; 0.125M) in dimethylformamide (70 ml) added. After stirring for 16 h at room temperature, the red solution was poured onto excess brine, and extracted with ether (×6). The aqueous layer was then acidified with hydrochloric acid (5M) until the red colour was discharged. The resultant solution was extracted with ether (×4) and the combined organic extracts washed with brine, dried and evaporated to afford the title compound as a yellow oil (26.7 g; 97%) which slowly solidified.

reactant | methyl cyanoacetate | 0.25M, 24.75 g | C(#N)CC(=O)OC | C4H5NO2
reactant | sodium hydride | 0.275M, 8.25 g | [H-].[Na+]
reactant | 2-fluoronitrobenzene | 0.125M, 17.65 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 2-Nitrophenylcyanoacetic acid, methyl ester | 26.7 g, 97% | [N+](=O)([O-])C1=C(C=CC=C1)C(C(=O)OC)C#N | C10H8N2O4
